US04008252
Method B -- Preparation Of 3-Formylchromone
A quantity of 35.2 g. (0.2 mole) of 3-(hydroxymethyl)-chromone is dissolved in 250 ml of concentrated nitric acid with stirring at 25° C. There is no initial heat of reaction. The temperature gradually rises to 30° C over the next several minutes and is kept there for about 5 minutes with ice-acetone bath cooling. Water, 600 ml, is added to the reaction solution. The separated, pale yellow solid is filtered, washed well with water and dried to give 25 g. of crude aldehyde melting at 145°-148°.

reactant | 3-(hydroxymethyl)-chromone | 0.2 mole | OCC1=COC2=CC=CC=C2C1=O | C10H8O3
reactant | Water | O | H2O
solvent | nitric acid | 250 ml | [N+](=O)(O)[O-] | HNO3
product | 3-Formylchromone | C(=O)C1=COC2=CC=CC=C2C1=O | C10H6O3
